US05843940
2-(4-Methoxyphenyl)-3-(3-hydroxyphenyl)-6-methoxybenzo[b]thiophene
A slurry was prepared consisting of 2-(4-methoxyphenyl)-3-(3-benzyloxyphenyl)-6-methoxybenzo[b]thiophene in 1 L of EtOH, 250 mL of EtOAc, and 40 mL of water. Palladium(0) black 4.04 g (38 mmol) and ammonium formate 12.6 g (200 mmol) was added. The reaction mixture was heated to reflux for one hour, then filtered hot through celite and evaporated to dryness. The solid was partioned between EtOAc and a saturated solution of Na2HCO3. The organic layer was washed with brine, dried with Na2SO4, and evaporated to dryness. This yielded 12.8 g of the title compound as a white solid.

reactant | 2-(4-methoxyphenyl)-3-(3-benzyloxyphenyl)-6-methoxybenzo[b]thiophene | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C29H24O3S
reactant | water | 40 mL | O | H2O
reactant | ammonium formate | 200 mmol, 12.6 g | C(=O)[O-].[NH4+]
solvent | EtOH | 1 L | CCO | C2H6O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
catalyst | Palladium(0) | 38 mmol, 4.04 g | [Pd] | Pd
product | 2-(4-Methoxyphenyl)-3-(3-hydroxyphenyl)-6-methoxybenzo[b]thiophene | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C2=CC(=CC=C2)O | C22H18O3S
